US04348371
An aqueous filtrate (1000 parts) containing 26.5 percent CaCl2 and 1.5 percent Ca(ClO3)2 and minor amounts of Ca(OCl)2 is recovered from a calcium hypochlorite paste filter and fed to a mixing vessel. Also fed to a heated mixing vessel are 96 parts of a calcium chlorate liquor containing 47 percent by weight of Ca(OCl3)2 and 33.5 percent by weight of CaCl2 [Ca(ClO3)2 /CaCl2 weight ratio=1.4]. The solutions are mixed and heated to convert the Ca(OCl)2 to calcium chlorate and provided a blended solution containing 27.3 percent CaCl2, 5.5 percent Ca(ClO3)2 and 67.2 percent H2O. The blended solution is fed to an evaporator and the water content reduced about 20 percent by weight. The concentrated solution is fed to an evaporative cooling crystallizer operated at 20° C. to produce a slurry of calcium chloride hexahydrate crystals in a mother liquor. After separation, the mother liquor is fed to a second crystallizer which is cooled by refrigeration to maintain the liquor at 5° C. Additional CaCl2.6H2O crystals are formed and separated from a mother liquor containing 37 percent Ca(ClO3)2 and 20 percent CaCl2. The mother liquor is fed to an evaporative crystallizer where Ca(ClO3)2 crystals are formed and recovered by the process of Example 1. After separating the anhydrous calcium chlorate crystals, the calcium chlorate liquor containing 47 percent Ca(ClO3)2 and 33.5 percent CaCl2 is recycled to the mixing vessel.

reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | H2O | O | H2O
product | calcium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Ca+2].[Cl-] | InChI=1S/Ca.2ClH.6H2O/h;2*1H;6*1H2/q+2;;;;;;;;/p-2
